US04116956
To a mixture of 2.35 parts of 2-amino-5-phenyl-3H-1,4-benzodiazepine, 50 parts by volume of ethanol and 1.2 parts by volume of glacial acetic acid is added 1.5 parts by volume of 100% hydrazine hydrate and the mixture is stirred for 1 hour at room temperature. Treatment of the mixture in a similar manner to Example 2 yields 2-hydrazino-5-phenyl-3H-1,4-benzodiazepine as white crystals. Recrystallization from a mixture of methylene chloride and benzene yields white crystals melting at 116° to 118° C. (effervescence).

reactant | 2-amino-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C15H13N3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C15H14N4
